US03962378
2-hydroxyethane-phosphonic acid dimethyl ester
A solution of 100 g of 2-acetoxyethane-phosphonic acid dimethyl ester in 100 ml of anhydrous methanol -- 4 g of p-toluenesulfonic acid being added -- is heated for 5 hours to 65°-75°C while removing simultaneously by distillation a mixture of methyl acetate/methanol. After distillation under reduced pressure, 59 g of 2-hydroxyethane-phosphonic acid dimethyl ester are obtained, corresponding to a yield of 75% of the theoretical.

reactant | 2-acetoxyethane-phosphonic acid dimethyl ester | 100 g | COP(OC)(=O)CCOC(C)=O | C6H13O5P
reactant | p-toluenesulfonic acid | 4 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | methanol | 100 ml | CO | CH4O
product | 2-hydroxyethane-phosphonic acid dimethyl ester | yield of 75% | COP(OC)(=O)CCO | C4H11O4P
